US09029544B2
((3R,95)-9-(tert-butyldimethylsilyloxy)-7,7-dimethyl-3-(4-(trifluoromethyl)phenyl)-2′,3′,5′,6,6′,7,8,9-octahydro-3H-spiro[furo[3,4-c]quinoline-1,4′-pyran]-4-yl)methyl methanesulfonate
50 mg ((3R,9S)-9-(tert-butyldimethylsilyloxy)-7,7-dimethyl-3-(4-(trifluoromethyl)phenyl)-2′,3′,5′,6,6′,7,8,9-octahydro-3H-spiro[furo[3,4-c]quinoline-1,4′-pyran]-4-yl)methanol are dissolved in 1 ml dichloromethane, cooled to 0° C. and treated dropwise with 65 μl N,N-diisopropyl-N-ethyl-amine and 45 μl methanesulfonic anhydride. The mixture is stirred for 12 hours while warming to room temperature. Then it is diluted with diethylether, washed with saturated aqueous ammonium chloride and dried with magnesium sulphate. The solvents are evaporated in vacuo and the product is used directly in the next step.

reactant | ((3R,9S)-9-(tert-butyldimethylsilyloxy)-7,7-dimethyl-3-(4-(trifluoromethyl)phenyl)-2′,3′,5′,6,6′,7,8,9-octahydro-3H-spiro[furo[3,4-c]quinoline-1,4′-pyran]-4-yl)methanol | 50 mg | [Si](C)(C)(C(C)(C)C)O[C@@H]1C=2C3=C(C(=NC2CC(C1)(C)C)CO)[C@H](OC31CCOCC1)C1=CC=C(C=C1)C(F)(F)F | C31H42F3NO4Si
reactant | N,N-diisopropyl-N-ethyl-amine | 65 μl | C(C)(C)N(CC)C(C)C | C8H19N
reactant | methanesulfonic anhydride | 45 μl | CS(=O)(=O)OS(=O)(=O)C | C2H6O5S2
solvent | dichloromethane | 1 ml | ClCCl | CH2Cl2
solvent | diethylether | C(C)OCC | C4H10O
product | ((3R,95)-9-(tert-butyldimethylsilyloxy)-7,7-dimethyl-3-(4-(trifluoromethyl)phenyl)-2′,3′,5′,6,6′,7,8,9-octahydro-3H-spiro[furo[3,4-c]quinoline-1,4′-pyran]-4-yl)methyl methanesulfonate | CS(=O)(=O)OCC1=NC=2CC(C[C@@H](C2C2=C1[C@H](OC21CCOCC1)C1=CC=C(C=C1)C(F)(F)F)O[Si](C)(C)C(C)(C)C)(C)C | C32H44F3NO6SSi
